US06586429B2
(R)-1-(5-acetoxyhexyl)-8-bromo-7-(2-(N-tert-butoxycarbonylamino)ethyl)-3-methylxanthine (6.10 g, 11.2 mmol) was added to a solution of trifluoroacetic acid (50 ml) and dichloromethane (50 ml) and stirred at room temperature for 3 hours. Concentration under reduced pressure provided an oil to which was added acetonitrile (30 ml) followed by potassium carbonate (13.8 g, 100 mmol). The mixture was stirred at 65° C. for 3 hours and filtered to remove solids. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel eluting with ethyl acetate-methanol (4:1) to provide (R)-3-(5-acetoxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione (3.58 g, 88% yield) as a white powder.

reactant | (R)-1-(5-acetoxyhexyl)-8-bromo-7-(2-(N-tert-butoxycarbonylamino)ethyl)-3-methylxanthine | 11.2 mmol, 6.10 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CCNC(=O)OC(C)(C)C)Br)C)C | C21H32BrN5O6
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (R)-3-(5-acetoxyhexyl)-1-methyl-6,7,8,9-tetrahydro-pyrimido[2,1-f]purine-2,4(1H,3H)-dione | 3.58 g, 88% yield | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCCN3)C)=O)C | C17H25N5O4
